US09227918B2
To a solution of 1.25 g (4.26 mmol) of ethyl 4-(2-(tert-butoxycarbonylamino)ethyl)benzoate in 40 mL of dry THF under a nitrogen atmosphere was added dropwise, 4.7 mL (4.7 mmol) of NaHMDS (1.0 M in THF) at 0° C. After stirring for 10 min, 0.50 mL (5.3 mmol) of dimethyl sulfate was added and the reaction was warmed to 22° C. and stirred for about 16 h. The reaction was quenched by adding 25 mL of saturated NaHCO3 and the mixture was extracted with DCM (2×25 mL). The combined organic extracts were dried (Na2SO4) and evaporated and the residue was purified by flash chromatography on silica gel, eluting first with hexane and then gradually increasing to 10% ethyl acetate/hexane to give ethyl 4-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoate as a colorless oil.

reactant | ethyl 4-(2-(tert-butoxycarbonylamino)ethyl)benzoate | 4.26 mmol, 1.25 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(C(=O)OCC)C=C1 | C16H23NO4
reactant | NaHMDS | 4.7 mmol, 1.0 M, 4.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | dimethyl sulfate | 5.3 mmol, 0.50 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 4-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoate | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C(=O)OCC)C=C1)C | C17H25NO4
